US06969714B2
3-Methoxy-1-propanol methanesulphonate
Methanesulphonyl chloride (1.75 ml, 22 mmol) was added to a solution of 3-methoxy-1-propanol (1.81 g, 20 mmol) and triethylamine (3.35 ml, 24 mmol) in DCM (40 ml) cooled in an ice bath and the mixture stirred at ambient temperature for 18 hours. DCM (25 ml) and water (50 ml) were added and the phases separated and the aqueous layer was extracted with DCM (25 ml). The extracts were combined, washed with water (50 ml) and brine (50 ml), dried (Chemelut column CE1010) and evaporated to give the title compound 3.25 g (97%) as a pale yellow oil. NMR 2.00 (m, 2H), 3.01 (s, 3H), 3.35 (s, 3H), 3.49 (t, 2H), 4.38 (t, 2H).

reactant | Methanesulphonyl chloride | 22 mmol, 1.75 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-methoxy-1-propanol | 20 mmol, 1.81 g | COCCCO | C4H10O2
reactant | triethylamine | 24 mmol, 3.35 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-1-propanol methanesulphonate | 3.25 g, 97% | CS(=O)(=O)OCCCOC | C5H12O4S
